US08106063B2
i) 6-Amino-2-[(1-phenylethyl)thio]pyrimidin-4-ol
The subtitle compound was prepared according to the procedure of Example 1 step i) treating 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate (5.0 g) with □-methylbenzyl bromide (5.74 g) to afford the subtitle compound which was used directly in the subsequent step.

reactant | 4-amino-6-hydroxy-2-mercaptopyrimidine monohydrate | 5.0 g | O.NC1=NC(=NC(=C1)O)S
reactant | methylbenzyl bromide | 5.74 g | CC(C1=CC=CC=C1)Br | C8H9Br
product | 6-Amino-2-[(1-phenylethyl)thio]pyrimidin-4-ol | NC1=CC(=NC(=N1)SC(C)C1=CC=CC=C1)O | C12H13N3OS
